US07157476B2
4-Amino-N-amino-furazan-3-carboxamidine:
To a solution of 4-amino-furazan-3-carbonitrile (0.50 g, 4.50 mmol) in acetonitrile (7.0 mL) was added hydrazine monohydrate (0.28 mL) dropwise. The solution was stirred at ambient temperature for 3 hours after which time a white solid precipitated. The solid was washed with acetonitrile and dried in vacuo to afford the title compound (0.60 g, 94%) as a white, fluffy solid. HPLC Method A Rt 0.18 min, m/z (ES+) (M+H)+ 143.

reactant | 4-amino-furazan-3-carbonitrile | 4.50 mmol, 0.50 g | NC=1C(=NON1)C#N | C3H2N4O
reactant | hydrazine monohydrate | 0.28 mL | O.NN
solvent | acetonitrile | 7.0 mL | C(C)#N | C2H3N
product | 4-Amino-N-amino-furazan-3-carboxamidine | 0.60 g, 94% | NC=1C(=NON1)C(=N)NN | C3H6N6O
